US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]prolinamide
To a solution of tert-butyl 2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbamoyl}pyrrolidine-1-carboxylate (250 mg, 0.44 mmol) in ethyl acetate (5 mL) was added a solution of hydrochloride in ethyl acetate (4 N, 20 mL) dropwise in an ice-water bath. After being stirred at room temperature for 14 hours, the reaction mixture was concentrated in vacuo. The residue was purified by preparative TLC to give 104.8 mg of the desired product (yield was 48%). MS obsd. (ESI+) [(M+H)+] 451, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.96 (s, 1 H), 7.88-7.84 (m, 2 H), 7.63-7.59 (m, 1 H), 7.54 (s, 1 H) 7.49-7.44 (m, 2 H), 7.39-7.37 (m, 2 H), 7.00 (s, 1 H), 5.04 (s, 2 H), 4.40 (s, 2 H), 4.16-4.12 (t, J=5.2 Hz, 1 H), 3.64 (s, 2 H) 3.15-3.01 (m, 3 H), 2.39 (s, 3 H), 2.23-2.20 (m, 1 H), 1.95-1.90 (m, 1 H), 1.80-1.75 (m, 1 H).

reactant | tert-butyl 2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbamoyl}pyrrolidine-1-carboxylate | 0.44 mmol, 250 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(=O)C2N(CCC2)C(=O)OC(C)(C)C)C)=O | C29H34N4O5S
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 N, 20 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]prolinamide | 104.8 mg, yield was 48% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC([C@H]2NCCC2)=O)C)=O | C24H26N4O3S
